US06498169B1
Synthesis of 4-[N-Benzyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-5-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Tetrahydrochloride
4-Benzylamino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (134 mg) and 5-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (114 mg) were condensed by the same manner as described in Example 9. Yellow oil of a free base was converted to a tetrahydrochloride which gave the title compound as yellow powder.

reactant | 4-Benzylamino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 134 mg | C(C1=CC=CC=C1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C27H33N3O3
reactant | 5-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 114 mg | ClCC=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-Benzyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-5-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Tetrahydrochloride | Cl.Cl.Cl.Cl.C(C1=CC=CC=C1)N(CC=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C42H48N4O6.4ClH/c1-47-37-21-32(22-38(48-2)41(37)51-5)35-13-12-31(25-44-35)28-46(27-29-10-8-7-9-11-29)34-15-18-45(19-16-34)26-30-14-17-43-36(20-30)33-23-39(49-3)42(52-6)40(24-33)50-4;;;;/h7-14,17,20-25,34H,15-16,18-19,26-28H2,1-6H3;4*1H
